US07700655B2
(2) 4-Chloro-2-styrylphenol (Compound No. 301)
Under argon atmosphere, 1 mol/L boron tribromide/dichloromethane solution (0.5 mL, 0.5 mmol) was added to a solution of 5-chloro-2-methoxy-β-phenylstyrene (80 mg, 0.3 mmol) in dichloromethane (2 mL) at room temperature, and the mixture was stirred for 12 hours. The reaction mixture was diluted with ethyl acetate (15 mL), and after it was washed successively with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=3:1) to give the title compound (34.2 mg, 45.4%) as a white powder.

reactant | boron tribromide dichloromethane | 0.5 mmol, 1 mol/L, 0.5 mL | B(Br)(Br)Br.ClCCl
reactant | 5-chloro-2-methoxy-β-phenylstyrene | 0.3 mmol, 80 mg | ClC=1C=CC(=C(C=CC2=CC=CC=C2)C1)OC | C15H13ClO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-2-styrylphenol | 34.2 mg, 45.4% | ClC1=CC(=C(C=C1)O)C=CC1=CC=CC=C1 | C14H11ClO
